US08097623B2
(b) 3-(2-Acetylamino-1-(4-cyclopentyloxyphenyl)-2-ethoxycarbonylethyl)-5-(4-trifluoromethylphenyl)indole-2-carboxylic acid ethyl ester
3-(2-Acetylamino-1-(4-cyclopentyloxyphenyl)-2-ethoxycarbonylvinyl)-5-(4-trifluoromethylphenyl)indole-2-carboxylic acid ethyl ester ('370 mg-, 0.58 mmol; see step (b) above) in MeOH (15 mL) and THF (115 mL) was hydrogenated (rt, 7 bar) over Pd—C (10%, 300 mg) for 6.5 h. The mixture was filtered through Celite® and concentrated to give sub-title compound. Yield 378 mg (1100%)

reactant | 3-(2-Acetylamino-1-(4-cyclopentyloxyphenyl)-2-ethoxycarbonylvinyl)-5-(4-trifluoromethylphenyl)indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1C(=C(C(=O)OCC)NC(C)=O)C1=CC=C(C=C1)OC1CCCC1)C1=CC=C(C=C1)C(F)(F)F | C36H35F3N2O6
reactant | THF | 115 mL | C1CCOC1 | C4H8O
solvent | MeOH | 15 mL | CO | CH4O
catalyst | Pd—C | 300 mg | [Pd] | Pd
product | 3-(2-Acetylamino-1-(4-cyclopentyloxyphenyl)-2-ethoxycarbonylethyl)-5-(4-trifluoromethylphenyl)indole-2-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC2=CC=C(C=C2C1C(C(C(=O)OCC)NC(C)=O)C1=CC=C(C=C1)OC1CCCC1)C1=CC=C(C=C1)C(F)(F)F | C36H37F3N2O6
